US07241760B2
2-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-4-trifluoromethyl-pyrimidine
The title compound, MS: m/e=363.1 (M+H+), was prepared in accordance with the general method of example 1 from 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole and 2-chloro-4-(trifluoromethyl)pyrimidine.

reactant | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
product | 2-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-4-trifluoromethyl-pyrimidine | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=NC=CC(=N1)C(F)(F)F)C | C17H10ClF3N4
